US05332743
To an ice-cooled solution of 1-(3-cyanobenzyl)-4-(2-methoxyphenyl)piperazine (5.60 g, 18.2 mmol) in 250 mL of tetrahydrofuran was added a solution of cyclohexylmagnesium chloride in ethyl ether (27.3 mL, 2.0M) under nitrogen. The solution was slowly warmed to 25° C. and then brought to reflux. After 48 h of reflux, thin layer chromatography indicated that the reaction was complete. The reaction mixture was then cooled to 0° C., ice cold 6N HCl solution (200 mL) was added, and the reaction mixture was stirred at ambient temperature for 3 h. The reaction mixture was then poured into a separatory funnel and washed with ether. The aqueous layer was then basified with K2CO3 and then extracted with chloroform. The organic extracts were combined, dried (Na2SO4), and concentrated to provide a dark green-brown oil. This material was purified on flash silica gel (1% methanol-chloroform) to afford 7.88 g (quantitative yield) of expected cyclohexyl ketone as a brown oil whose 1H NMR in CDCl3 was consistent with the desired structure.

reactant | 1-(3-cyanobenzyl)-4-(2-methoxyphenyl)piperazine | 18.2 mmol, 5.60 g | C(#N)C=1C=C(CN2CCN(CC2)C2=C(C=CC=C2)OC)C=CC1 | C19H21N3O
reactant | cyclohexylmagnesium chloride | C1(CCCCC1)[Mg]Cl
reactant | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 2.0M, 27.3 mL | C(C)OCC | C4H10O
product | cyclohexyl ketone | 7.88 g, quantitative yield | C1(CCCCC1)C(=O)C1CCCCC1 | C13H22O
